US05084469
6-Benzylbenzothiazolinone
10.2 g (0.04 mole) of 6-benzoylbenzothiazolinone are weighed into a 105-cm: flask. 45.6 g (0.4 mole) of trifluoroacetic acid are added via a dropping funnel equipped with a teflon tap. 10.5 g (0.09 mole) of triethylsilane are added dropwise with magnetic stirring and while cooling by means of a bath of ice-cold water. A calcium chloride guard tube is fitted and stirring is continued for fifteen hours at room temperature. The reaction mixture is poured with stirring into 500 cm3 of ice-cold water. The precipitate obtained is drained and washed with water until the washing liquors are neutral. The product is dried and recrystallized in toluene.

reactant | 6-benzoylbenzothiazolinone | 0.04 mole, 10.2 g | C(C1=CC=CC=C1)(=O)C1=CC2=C(N=CS2=O)C=C1 | C14H9NO2S
reactant | trifluoroacetic acid | 0.4 mole, 45.6 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 0.09 mole, 10.5 g | C(C)[SiH](CC)CC | C6H16Si
product | 6-Benzylbenzothiazolinone | C(C1=CC=CC=C1)C1=CC2=C(N=CS2=O)C=C1 | C14H11NOS
